US09169248B2
A mixture of methyl 1-(4-chlorophenyl)-5-isopropyl-pyrazole-4-carboxylate (26.0 g, 96.7 mmol) and lithium hydroxide monohydrate (10.0 g, 238 mml) in MeOH (60 mL), THF (60 mL), and H2O (30 mL) was heated at 80° C. for 3 h. The reaction mixture was cooled to room temperature, acidified with 1 N aqueous HCl, and extracted with EtOAc (600 ml). The organic layer was separated, dried over anhydrous sodium sulfate, and concentrated in vacuo to yield 1-(4-chlorophenyl)-5-isopropylpyrazole-4-carboxylic acid (24.0 g, 97%).

reactant | methyl 1-(4-chlorophenyl)-5-isopropyl-pyrazole-4-carboxylate | 96.7 mmol, 26.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)C(=O)OC | C14H15ClN2O2
reactant | lithium hydroxide monohydrate | 10.0 g | O.[OH-].[Li+]
reactant | H2O | 30 mL | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorophenyl)-5-isopropylpyrazole-4-carboxylic acid | 24.0 g, 97% | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)C(=O)O | C13H13ClN2O2
